US06114325
(2) 4,5-Dimethoxy-2-[2-(4-methylpiperazinyl)-2-oxoethyl]benzyl N-octadecylcarbamate
Triethylamine (0.41 ml) and octadecyl isocyanate (0.91 ml) were added to a solution of 2-[2-(hydroxymethyl)-4,5-dimethoxyphenyl]-1-(4-methylpiperazinyl)-1-ethanone (0.82 g) in dichloromethane (8.5 ml) at room temperature. After being stirred for 15 hours, resulting insoluble materials were filtrated out under a vacuum and washed with chloroform. A mixture of the filtrate and chloroform used for washing was washed with saturated sodium hydrogencarbonate aqueous solution and saturated brine successively, dried over sodium sulfate anhydride, and then concentrated. The residue was purified by silica gel column chromatography (silica gel 50 g, chloroform:methanol=50:1-30:1), thereby yielding 0.83 g of the aimed compound as light brown solid.

reactant | Triethylamine | 0.41 ml | C(C)N(CC)CC | C6H15N
reactant | octadecyl isocyanate | 0.91 ml | C(CCCCCCCCCCCCCCCCC)N=C=O | C19H37NO
reactant | 2-[2-(hydroxymethyl)-4,5-dimethoxyphenyl]-1-(4-methylpiperazinyl)-1-ethanone | 0.82 g | OCC1=C(C=C(C(=C1)OC)OC)CC(=O)N1CCN(CC1)C | C16H24N2O4
solvent | dichloromethane | 8.5 ml | ClCCl | CH2Cl2
product | 4,5-Dimethoxy-2-[2-(4-methylpiperazinyl)-2-oxoethyl]benzyl N-octadecylcarbamate | 0.83 g | C(CCCCCCCCCCCCCCCCC)NC(OCC1=C(C=C(C(=C1)OC)OC)CC(=O)N1CCN(CC1)C)=O | C35H61N3O5
